US04355032
To a solution of 1,3-di-O-benzyl-2-O-chloromethylglycerol from Preparation II (17.5 g, 55 mmol) in 400 ml of dimethylformamide at 0° C. under a drying tube was added sodium acetate (6 g). The solution was then warmed to 21° C. and magnetically stirred for 15 hours. The solvent was removed by evaporation at reduced pressure and the oily residue dissolved in 1 pound of diethylether. The ether solution was washed once with 750 ml of water, two times with 250 ml of water, and once with 250 ml of brine, dried over sodium sulfate and concentrated to give 19 g of 2-O-acetoxymethyl-1,3-di-O-benzylglycerol as an oil.

reactant | 1,3-di-O-benzyl-2-O-chloromethylglycerol | C(C1=CC=CC=C1)OCC(OCCl)COCC1=CC=CC=C1 | C18H21ClO3
reactant | sodium acetate | 6 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-O-acetoxymethyl-1,3-di-O-benzylglycerol | 19 g | C(C)(=O)OCOC(COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C20H24O5
